US06265350B1
2-(2,6-Difluorophenyl)-4-(4-bromophenyl)oxazoline (VP4) (2.0 g, 5.9 mmol) was mixed with 2-trifluoroethoxy-5-trimethylstannylpyridine (2.61 g, 7.7 mmol), tetrakis(triphenylphosphine)palladium (0.22 g, 0.18 mmol) and lithium chloride (0.38 g, 8.9 mmol) in dioxane (30 ml) and refluxed for 9 hours. After extractive work-up and column chromatography, 2-(2,6-difluorophenyl)4-[4-(2-trifluoroethoxypyridin-5-yl)phenyl]oxazoline was obtained, 1.37 g, colorless crystals. 19F NMR (CDCl3): −75.05 (CF3), −110.45 (ArF).

reactant | 2-(2,6-Difluorophenyl)-4-(4-bromophenyl)oxazoline | 5.9 mmol, 2.0 g | FC1=C(C(=CC=C1)F)C=1OCC(N1)C1=CC=C(C=C1)Br | C15H10BrF2NO
reactant | 2-trifluoroethoxy-5-trimethylstannylpyridine | 7.7 mmol, 2.61 g | FC(COC1=NC=C(C=C1)[Sn](C)(C)C)(F)F
reactant | lithium chloride | 8.9 mmol, 0.38 g | [Cl-].[Li+]
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.18 mmol, 0.22 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2,6-difluorophenyl)4-[4-(2-trifluoroethoxypyridin-5-yl)phenyl]oxazoline | FC1=C(C(=CC=C1)F)C=1OCC(N1)C1=CC=C(C=C1)C=1C=CC(=NC1)OCC(F)(F)F | C22H15F5N2O2
